US06180622B2
The procedure of Example 23-a) is repeated, except that 303.0 mg of (3S,5S)-1-allyloxycarbonyl-3-benzoylthio-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine described in Synthesis Example 23 is used. Thus, 261.0 mg of a mercaptan compound is prepared as a yellow oil. Allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (186.7 mg) is prepared as a colorless amorphous material from this mercaptan and 260.9 mg of allyl(1R,5R,6S)-2-(diphenylphosphono)oxy-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate.

reactant | (3S,5S)-1-allyloxycarbonyl-3-benzoylthio-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidine | 303.0 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2Cl)SC(C2=CC=CC=C2)=O | C21H20ClN3O3S2
reactant | allyl(1R,5R,6S)-2-(diphenylphosphono)oxy-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 260.9 mg | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)C | C25H26NO8P
product | Allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(5-chloroimidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 186.7 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2Cl)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H31ClN4O6S2
